US07511064B2
2.3.1 Synthesis of 2-(3-Ethoxy-phenylamino)-benzoic acid
m-Phenetidine (5 ml, 38.7 mmol) is added to a solution of KOH (7.385 g, 131.6 mmol), water (77 ml) and 2-iodobenzoic acid (9.6 g, 38.7 mmol). Powdered copper (77 mg, 1.22 μmol) is added and the mixture is refluxed under stirring over night (16 h).

reactant | m-Phenetidine | 38.7 mmol, 5 ml | CCOC1=CC(=CC=C1)N | C8H11NO
reactant | KOH | 131.6 mmol, 7.385 g | [OH-].[K+]
reactant | 2-iodobenzoic acid | 38.7 mmol, 9.6 g | IC1=C(C(=O)O)C=CC=C1 | C7H5IO2
catalyst | copper | 1.22 μmol, 77 mg | [Cu] | Cu
solvent | water | 77 ml | O | H2O
product | 2-(3-Ethoxy-phenylamino)-benzoic acid | C(C)OC=1C=C(C=CC1)NC1=C(C(=O)O)C=CC=C1 | C15H15NO3
